US07902194B2
4-tert-Butyl-1-ethynyl-2-nitro-benzene (1.662 g, 8.176 mmol) was dissolved in 20 mL carban tetrachloride, 20 mL acetonitrile, and 40 mL water. Periodic acid (9.322 g, 40.89 mmol) was added followed by ruthenium(III)chloride hydrate (85 mg, 0.41 mmol). After stirring of 90 minutes, the resulting mixture was diluted with water and extracted with three portions of dichloromethane. The combined dichloromethane layers wee dried over anhydrous MgSO4, and concentrated in vacuo to yield 4-tert-Butyl-2-nitro-benzoic acid (1.924 g, 86.19 mmol).

reactant | 4-tert-Butyl-1-ethynyl-2-nitro-benzene | 8.176 mmol, 1.662 g | C(C)(C)(C)C1=CC(=C(C=C1)C#C)[N+](=O)[O-] | C12H13NO2
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
reactant | Periodic acid | 40.89 mmol, 9.322 g | I(=O)(=O)(=O)O | HIO4
reactant | water | O | H2O
reactant | water | 40 mL | O | H2O
solvent | carban tetrachloride | 20 mL | [Cl-].[Cl-].[Cl-].[Cl-].C
catalyst | ruthenium(III)chloride hydrate | 0.41 mmol, 85 mg | O.[Ru](Cl)(Cl)Cl
product | 4-tert-Butyl-2-nitro-benzoic acid | 86.19 mmol, 1.924 g | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C11H13NO4
